US06579872B1
N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]-3-(N-methylmethanesulphonylamino)benzamide
Methyl iodide (0.1 g) was added to a mixture of N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]-3-methanesulphonylaminobenzamide (0.3 g), caesium carbonate (0.23 g) and DMF (20 ml) and the resultant mixture was stirred at ambient temperature for 18 hours. The reaction mixture was poured into water (250 ml). The precipitate was isolated, washed in turn with water and diethyl ether and dried under vacuum at 60° C. There was thus obtained the title compound (0.23 g); m.p. 168-169° C.; NMR Spectrum: (DMSOd6) 2.19 (s, 3H), 2.95 (s, 6H), 3.0 (s, 3H), 6.9 (d, 1H), 7.21 (m, 3H), 7.29 (t, 1H), 7.58 (m, 3H), 7.81 (d, 1H), 7.9 (d, 1H), 7.98 (d, 1H) 9.97 (br s, 1H), 10.09 (br s, 1 H); Mass Spectrum: M+H+ 481.

reactant | Methyl iodide | 0.1 g | CI | CH3I
reactant | N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]-3-methanesulphonylaminobenzamide | 0.3 g | CN(C=1C=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC(=CC=C2)NS(=O)(=O)C)=O)C)C=CC1)C | C24H26N4O4S
reactant | caesium carbonate | 0.23 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | 250 ml | O | H2O
product | N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]-3-(N-methylmethanesulphonylamino)benzamide | 0.23 g | CN(C=1C=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC(=CC=C2)N(C)S(=O)(=O)C)=O)C)C=CC1)C | C25H28N4O4S
